US06500845B1
8.2 g of 2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione were dissolved in 470 ml of glacial acetic acid. When the solution was boiling under reflux, five 3.9 g portions of zinc dust were added at intervals of one hour. Then zinc was removed by filtration and washed with 1,4-dioxane. The filtrate was evaporated under vacuo yielding a crude product which was crystallized from ethyl alcohol. The residue obtained by evaporation of the mother liquor was purified by column chromatography (stationary phase: silica gel 60, MERCK, 40-63 mm; mobile phase: 4:1 acetone/dichloromethane). Thus 2.7 g (35%) of 3-methyl-3-(1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione were obtained.

reactant | 2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 8.2 g | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=CC=C2C1=O)=O | C14H12N2O4
solvent | acetic acid | 470 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | 3-methyl-3-(1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 2.7 g, 35% | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=CC=C2C1)=O | C14H14N2O3
